US05624935
2-t-Butyldimethylsilyloxymethyl-1H-imidazo-[4,5-c]pyridine
A procedure similar to that described in Preparation 49 was repeated, except that 5.00 g of 2-hydroxymethyl-1H-imidazo[4,5-c]pyridine, 6.85 g of imidazole, 7.58 g of t-butyldimethylsilyl chloride and 100 ml of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 7.40 g of the title compound, melting at 53°-55° C.

reactant | 2-hydroxymethyl-1H-imidazo[4,5-c]pyridine | 5.00 g | OCC=1NC2=C(C=NC=C2)N1 | C7H7N3O
reactant | imidazole | 6.85 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 7.58 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-t-Butyldimethylsilyloxymethyl-1H-imidazo-[4,5-c]pyridine | [Si](C)(C)(C(C)(C)C)OCC=1NC2=C(C=NC=C2)N1 | C13H21N3OSi
